US07893352B2
4,7-diphenyl-2,9-di-m-tolyl-1,10-phenanthroline (m-TBP)
Under a nitrogen atmosphere, 8.8 ml of a 1.7 mol/l t-butyllithium solution (15 mmole) was added dropwise to a solution of 2.55 g of 2-bromo-toluence in 20 ml of THF at 0° C. The resulting mixture was stirred for another 2 hours, and then transferred to a stirred suspension of 1.0 g of bathophenanthroline (3 mmole) in 40 ml of toluene in an ice bath. The resulting deep-red solution was stirred overnight at room temperature, and 10 ml of water was then added. The organic layer was separated, and the aqueous layer was extracted with 30 ml of dicholormethane three times. The combined extracts were stirred with 15 g MnO2 for 2 hours. The mixture then was dried over 15 g of anhydrous MgSO4, filtered, and evaporated to dryness. The clean product was obtained after running chromatography in a silica/CH2Cl2 column with a yield of 75 percent. 1H NMR (500 MHz, CDCl3), ppm: 8.50 (s, 2H), 8.22 (d, J=7.5 Hz, 2H), 8.09 (s, 2H), 7.80 (s, 2H), 7.63-7.48 (m, 10H), 7.45 (dd, J=7.0, 7.0 Hz, 2H), 7.31 (d, J=7.0 Hz, 2H), 2.54 (s, 6H). Analysis for m-TBP. Found: C, 88.29, H, 5.40, N, 5.57. Calculated: C, 89.03, H, 5.51, N, 5.46.

reactant | t-butyllithium | 15 mmole, 1.7 mol/l | C(C)(C)(C)[Li]
reactant | bathophenanthroline | 3 mmole, 1.0 g | C1=CC=C(C=C1)C2=C3C=CC4=C(C=CN=C4C3=NC=C2)C5=CC=CC=C5 | C24H16N2
reactant | water | 10 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4,7-diphenyl-2,9-di-m-tolyl-1,10-phenanthroline | yield of 75 percent | C1(=CC=CC=C1)C1=CC(=NC2=C3N=C(C=C(C3=CC=C12)C1=CC=CC=C1)C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | C38H28N2
